US06121252
2-[({[Benzylamino]methyl}(hydroxyphosphinyl))methyl]pentanedioic acid (15)
To a solution of di-tert-butyl 2-[((tert-butoxy){[benzylamino]methyl}phosphoryl)methyl]pentane-1,5-dioate (0.498 g, 1.0 mmol) in dichloromethane (10 mL) was added trifluoroacetic acid (5 mL) at 0° C., and the mixture was stirred at room temperature for eighteen hours. The solvent was removed under reduced pressure. The residual oil was taken up with dichloromethane (10 mL) and concentrated. This process was repeated three times to remove trifluoroacetic acid completely. The resulting oil was crystallized from methanol to give 0.174 g of white solid (53% yield): 1H NMR (D2O) δ 1.40-1.48 (m, 27H), 1.7-2.1 (m, 4H), 2.2-2.4 (m, 3H), 2.6-3.0 (m, 3H), 3.8-4.0 (m, 2H), 7.2-7.4 (m, 5H).

reactant | di-tert-butyl 2-[((tert-butoxy){[benzylamino]methyl}phosphoryl)methyl]pentane-1,5-dioate | 1.0 mmol, 0.498 g | C(C)(C)(C)OP(=O)(CNCC1=CC=CC=C1)CC(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C | C26H44NO6P
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-[({[Benzylamino]methyl}(hydroxyphosphinyl))methyl]pentanedioic acid | 0.174 g, 53% yield | C(C1=CC=CC=C1)NCP(=O)(O)CC(C(=O)O)CCC(=O)O | C14H20NO6P
